US07834034B2
6-(Carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid (2-amino-5-thiophen-2-yl phenyl)amide
To a solution of (2-{[6-(carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carbonyl]-amino}-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester (163 mg, 0.31 mmol)) in methylene chloride (2 mL) was added trifluoroacetic acid (1 mL) and the solution was stirred at ambient temperature for 16 hours. The reaction was evaporated to dryness. The residue was washed with sat. NaHCO3 and MeOH, and the solid was filtered. 1H NMR (DMSO-d6) δ 10.03 (br s, 1H), 8.33 (s, 1H), 8.11 (s, 1H), 8.02 (d, J=8.2 Hz, 1H), 7.93 (s, 1H), 7.62 (br d, J=2.4 Hz, 1H), 7.51 (d, J=8.2 Hz, 1H), 7.45 (d, J=1.8 Hz, 1H), 7.33 (dd, J=5.0, 1.8 Hz, 1H), 7.29 (dd, J=8.2, 1.8 Hz, 1H), 7.23 (dd, J=3.5, 1.8 Hz, 1H), 7.02 (dd, J=5.2, 3.5 Hz, 1H), 6.79 (d, J=8.2 Hz, 1H), 5.93 (d, J=45.7 Hz, 1H), 5.24 (s, 2H). cal'd 427 (MH+), exp 427 (MH+).

reactant | (2-{[6-(carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carbonyl]-amino}-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester | 0.31 mmol, 163 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC2=C(S1)C=C(C=C2)C(F)C(N)=O)=O | C26H24FN3O4S2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-(Carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid (2-amino-5-thiophen-2-yl phenyl)amide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC2=C(S1)C=C(C=C2)C(F)C(N)=O | C21H16FN3O2S2
